US08937073B2
4b) (4-aminomethyl-phenyl)-(4-methoxy-2-trifluoromethyl-phenyl)-amine
3.7 g (12.7 mmol) of 4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile were hydrogenated in a 7N solution of ammonia in methanol (100 mL) with the addition of Raney nickel at ambient temperature. After the catalyst had been filtered off and the solvent distilled off, the crude product thus obtained was reacted further without purification.

reactant | 4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile | 12.7 mmol, 3.7 g | COC1=CC(=C(C=C1)NC1=CC=C(C#N)C=C1)C(F)(F)F | C15H11F3N2O
reactant | ammonia | N | H3N
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (4-aminomethyl-phenyl)-(4-methoxy-2-trifluoromethyl-phenyl)-amine | NCC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)C(F)(F)F | C15H15F3N2O
